US05405829
2.0 g (12.1 mmole) 3-Amino-1-methyl-5-trifluoromethylpyrazole in 20 ml acetonitrile was treated with 1.8 g (13.3 mmole) sulfuryl chloride and the mixture stirred for 2 hours at room temperature. It was poured into aqueous saturated sodium hydrogen carbonate, extracted with ethyl acetate, dried over sodium sulfate and concentrated. 2.24 g 3-Amino-4-chloro-1-methyl-5-trifluoromethylpyrazole was obtained, which was treated without further purification as described under 2 (Example 1) to give 4-chloro-3-hydrazino-1-methyl-5-trifluoromethylpyrazole.

reactant | 3-Amino-1-methyl-5-trifluoromethylpyrazole | 12.1 mmole, 2.0 g | NC1=NN(C(=C1)C(F)(F)F)C | C5H6F3N3
reactant | sulfuryl chloride | 13.3 mmole, 1.8 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-Amino-4-chloro-1-methyl-5-trifluoromethylpyrazole | 2.24 g | NC1=NN(C(=C1Cl)C(F)(F)F)C | C5H5ClF3N3
